US07144881B2
Step D: (R)-2-Amino-2-(4-fluoro-3-morpholin-4-yl-phenyl)-ethanol
A solution of TFA (5 mL) and (R )-[1-(fluoro-3-morpholin-4-yl-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester(1.2 g) in methylene chloride (15 mL) was stirred for 2 h. After concentration, the residue was neutralized with 10 N NaOH and extracted with methylene chloride. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo to give the title compound as a solid (720 mg).

reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R )-[1-(fluoro-3-morpholin-4-yl-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester | 1.2 g | C(C)(C)(C)OC(N[C@@H](CO)C1=C(C(=CC=C1)N1CCOCC1)F)=O | C17H25FN2O4
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-Amino-2-(4-fluoro-3-morpholin-4-yl-phenyl)-ethanol | 720 mg | N[C@@H](CO)C1=CC(=C(C=C1)F)N1CCOCC1 | C12H17FN2O2
